US07217724B2
N,N-Diethyl-2-(1H-indol-7-yl)acetamide
N,N-Diethyl-2-(2-nitrophenyl)acetamide (87.2 g, 0.369 mol) is dissolved in tetrahydrofuran (1.5L), and the mixture is cooled to −70° C. To the mixture is added dropwise a 1M solution of vinylmagnesium bromide in tetrahydrofuran (1.11 L, 1.11 mol). After the addition, the mixture is stirred at −50° C. for additional 5 hours. The reaction solution is poured into an aqueous ammonium chloride solution, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The resulting residue is purified by silica gel column chromatography (chloroform, hexane/ethyl acetate=4/1) to give the title compound (4.02 g, yield: 5%).

reactant | N,N-Diethyl-2-(2-nitrophenyl)acetamide | 0.369 mol, 87.2 g | C(C)N(C(CC1=C(C=CC=C1)[N+](=O)[O-])=O)CC | C12H16N2O3
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.11 mol, 1.11 L | O1CCCC1 | C4H8O
product | N,N-Diethyl-2-(1H-indol-7-yl)acetamide | 4.02 g, yield: 5% | C(C)N(C(CC=1C=CC=C2C=CNC12)=O)CC | C14H18N2O
